US05750545
(1) Methyl 4-chloro-2-methoxybenzoate
To a suspension of 60% sodium hydride oil (3.4 g) in dimethylformamide (25 ml) was added 4-chlorosalicylic acid (7.33 g) under ice-cooling, and the mixture was stirred for 1 hour at room temperature. After the stirring, iodomethane (25 g) was dropwise added to the mixture and the mixture was reacted for 1 hour at 50° C., which was followed by extraction with ether. The extract was washed with water and dried over magnesium sulfate. After the concentration, the residue was chromatographed on silica gel (hexane-ethyl acetate) to give 6.60 g of a colorless transparent liquid (yield 77.4%).

reactant | sodium hydride | 3.4 g | [H-].[Na+]
reactant | 4-chlorosalicylic acid | 7.33 g | ClC=1C=C(C(C(=O)O)=CC1)O | C7H5ClO3
reactant | iodomethane | 25 g | IC | CH3I
reactant | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | Methyl 4-chloro-2-methoxybenzoate | 6.60 g, yield 77.4% | ClC1=CC(=C(C(=O)OC)C=C1)OC | C9H9ClO3
